US05532235
2-Chlorobenzoyl chloride
As described for Reference Example 21, 3.13 g of 2-chlorobenzoic acid is reacted with 40 ml of thionyl chloride to give 3.32 of product as an off-white semi solid.

reactant | 2-chlorobenzoic acid | 3.13 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
